US08053431B2
Furan-2-carboxylic acid {2-[5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)benzoimidazol-1-yl]-ethyl}-amide
To a solution of 2-furoic acid (37 mg, 0.33 mmol) in dry THF (2 mL) at room temperature under an inert atmosphere of nitrogen were added HOBt (49 mg, 0.36 mmol) and EDAC (82 mg, 0.43 mmol), and the resulting solution was stirred for 30 min. [1-(2-Aminoethyl)-1H-benzoimidazol-5-yl]-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone trifluoroacetate (150 mg, 0.33 mmol) was added to the solution followed by TEA (0.184 mL, 1.32 mmol), and the reaction mixture was stirred for 16 h at room temperature. The volatiles were evaporated in vacuo and the resulting solid was purified by preparative HPLC, dried in vacuo at 50° C. affording 100 mg (70%) of the title compound as a solid. MS-ESI m/z 435; 1H NMR (400 MHz, DMSO-d6) δ 0.88-0.99 (m, 6H), 1.07 (d, 3H), 1.29-1.41 (m, 4H), 1.50-1.52 (m) and 2.10-2.11 (m, 1H), 1.76-1.79 (m, 1H), 3.02 (d), 3.13 (d), 3.32 (d) and 3.47 (d, 2H), 3.69 (t, 2H), 3.87-3.89 (m) and 4.39-4.41 (m, 1H), 4.56 (t, 2H), 6.58 (s, 1H), 6.98 (d, 1H), 7.48 (dd, 1H), 7.77-7.82 (m, 2H), 7.89 (t, 1H), 8.54-8.58 (m, 1H), 9.07 (d, 1H).

reactant | 2-furoic acid | 0.33 mmol, 37 mg | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | HOBt | 0.36 mmol, 49 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.43 mmol, 82 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | [1-(2-Aminoethyl)-1H-benzoimidazol-5-yl]-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone trifluoroacetate | 0.33 mmol, 150 mg | FC(C(=O)O)(F)F.NCCN1C=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Furan-2-carboxylic acid {2-[5-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)benzoimidazol-1-yl]-ethyl}-amide | 100 mg, 70% | CC12CC(CC(N(C1)C(=O)C1=CC3=C(N(C=N3)CCNC(=O)C=3OC=CC3)C=C1)C2)(C)C | C25H30N4O3
